US07812022B2
Step B: N-[3-(2-Chloro-pyrimidin-4-ylethynyl)-phenyl]-2,2,2-trifluoro-acetamide
To a mixture of 2,4-dichloropyrimidine (14.5 g, 97.5 mmol), dichlorobis(triphenyl-phosphine)palladium(II) (1.3 g, 2.6 mmol), and copper(I) iodide (25 mg, 0.13 mmol) in degassed THF was added triethylamine (34 mL, 263 mmol), and the mixture was heated to 50° C. A solution of N-(3-ethynyl-phenyl)-2,2,2-trifluoro-acetamide (14 g, 65 mmol) in THF was added to the mixture over 45 min. After several h, the reaction was cooled to rt and diluted with DCM. The organic mixture was washed with water and brine, dried over MgSO4 and concentrated. The crude material was purified through silica to give the title compound as an off-white solid. 1H NMR (400 MHz, d6-DMSO): δ 11.43 (s, 1H), 8.83 (d, J=4.8 Hz, 1H), 8.00 (s, 1H), 7.80 (d, J=4.8 Hz, 1H), 7.76 (m, 1H), 7.54-7.52 (m, 2H).

reactant | 2,4-dichloropyrimidine | 97.5 mmol, 14.5 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | triethylamine | 263 mmol, 34 mL | C(C)N(CC)CC | C6H15N
reactant | N-(3-ethynyl-phenyl)-2,2,2-trifluoro-acetamide | 65 mmol, 14 g | C(#C)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C10H6F3NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | dichlorobis(triphenyl-phosphine)palladium(II) | 2.6 mmol, 1.3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.13 mmol, 25 mg | [Cu]I
product | N-[3-(2-Chloro-pyrimidin-4-ylethynyl)-phenyl]-2,2,2-trifluoro-acetamide | ClC1=NC=CC(=N1)C#CC=1C=C(C=CC1)NC(C(F)(F)F)=O | C14H7ClF3N3O
